US08445509B2
Production of 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid
In the same manner as in Reference Example 65 and using ethyl 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.4 g, 11 mmol), tetrahydrofuran (6 mL), methanol (5 mL) and 4N aqueous sodium hydroxide solution (8 mL) as starting materials, the title compound (2.8 g, 90%) was obtained as a white solid.

reactant | ethyl 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 11 mmol, 3.4 g | ClC1=C(C(=CC=C1)Cl)N1N(C=C(C1=O)C(=O)OCC)C | C13H12Cl2N2O3
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 4N, 8 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2,6-dichlorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 2.8 g, 90% | ClC1=C(C(=CC=C1)Cl)N1N(C=C(C1=O)C(=O)O)C | C11H8Cl2N2O3
